US06211220B1
3-Amino-4-[4-(3-Pyridyl)Anilino]-3-Cyclobutene-1,2-Dione
A solution of 3-(4-aminophenyl)pyridine (0.51 g) and 3-amino-4-ethoxy-3-cyclobutene 1,2-dione (0.42 g) in pyridine (2 ml) is stirred at 80° for 20 hours. The cool mixture is treated with water (15 ml), and the solid filtered off and washed with water and hot methanol. Recrystallation from dimethylformamide gives 0.33 g of the title compound, mp 3224° C. dec.

reactant | 3-(4-aminophenyl)pyridine | 0.51 g | NC1=CC=C(C=C1)C=1C=NC=CC1 | C11H10N2
reactant | 3-amino-4-ethoxy-3-cyclobutene 1,2-dione | 0.42 g | NC=1C(C(C1OCC)=O)=O | C6H7NO3
reactant | water | 15 ml | O | H2O
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 3-Amino-4-[4-(3-Pyridyl)Anilino]-3-Cyclobutene-1,2-Dione | 0.33 g | NC=1C(C(C1NC1=CC=C(C=C1)C=1C=NC=CC1)=O)=O | C15H11N3O2
